US04874775
N-(4-chlorophenyl)-N-(pyridin-3-ylmethyl)chloromethanesulfonamide
A 2.6 g. portion of 3-(4-chlorophenylaminomethyl)pyridine was dissolved in dichloromethane with stirring, and to the solution was added 2.1 g. of potassium carbonate and 2.25 g. of chloromethanesulfonyl chloride. The mixture was stirred at ambient temperature for several days, and was then worked up as described in Example 3 to obtain 0.6 g. of the desired product, m.p. 98°-100°.

reactant | 3-(4-chlorophenylaminomethyl)pyridine | ClC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H11ClN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethanesulfonyl chloride | ClCS(=O)(=O)Cl | CH2Cl2O2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-chlorophenyl)-N-(pyridin-3-ylmethyl)chloromethanesulfonamide | ClC1=CC=C(C=C1)N(S(=O)(=O)CCl)CC=1C=NC=CC1 | C13H12Cl2N2O2S
